US09029536B2
E) 1-Ethyl-1H-pyrazolo[4,3-d]pyrimidine
A mixture of 7-chloro-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine (105 mg), TEA (0.088 mL) and 10% Pd—C (30 mg) in AcOEt (5 mL) was hydrogenated under balloon pressure at room temperature for 2 h. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to give the title compound (80 mg).

reactant | 7-chloro-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 105 mg | ClC=1C2=C(N=CN1)C=NN2CC | C7H7ClN4
solvent | AcOEt | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 30 mg | [Pd] | Pd
product | 1-Ethyl-1H-pyrazolo[4,3-d]pyrimidine | 80 mg | C(C)N1N=CC=2N=CN=CC21 | C7H8N4
